US04329347
6-[4-(2,4,5-Trichlorophenyl-mercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril (m.p. 198°-199° C.) and 2,4,5-trichlorothiophenol.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | 2,4,5-trichlorothiophenol | ClC1=C(C=C(C(=C1)Cl)Cl)S | C6H3Cl3S
product | 6-[4-(2,4,5-Trichlorophenyl-mercapto)-butoxy]-carbostyril | ClC1=C(C=C(C(=C1)Cl)Cl)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H16Cl3NO2S
